US07208506B2
(E)-2-pyridin-3-yl-ethenesulfonic acid (1,1,3,3-tetramethyl-butyl)-amide (3.63 g, 12.3 mmol) was stirred for 3 hours in a 1:1 mixture of trifluoroacetic acid and dichloromethane (40 mL). The solvent was concentrated in vacuo to afford a yellow oil. The oil was dissolved in dichloromethane (50 mL) and washed with saturated sodium bicarbonate solution (50 mL), dried over MgSO4, filtered and concentrated in vacuo to afford (E)-2-pyridin-3-yl-ethenesulfonic acid amide as a pale yellow solid (1.65 g, 73%).

reactant | (E)-2-pyridin-3-yl-ethenesulfonic acid (1,1,3,3-tetramethyl-butyl)-amide | 12.3 mmol, 3.63 g | CC(CC(C)(C)C)(C)NS(=O)(=O)\C=C\C=1C=NC=CC1 | C15H24N2O2S
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | (E)-2-pyridin-3-yl-ethenesulfonic acid amide | 1.65 g, 73% | N1=CC(=CC=C1)/C=C/S(=O)(=O)N | C7H8N2O2S
